US04845293
Preparation of 4-chloro-2-(β-aminoethyl)amino-6-(β-aminoethyl)aminonitrobenzene
0.35 mole (79 g) of 2,4,6-trichloronitrobenzene is added to 280 ml of ethylenediamine diluted with 140 ml of dioxan, the temperature being maintained at 10° C. The mixture is heated for 2 hours at 50° C. The product expected precipitates on standing overnight at ambient temperature. After draining and re-impasting in water, the product is recrystallized from isopropanol in order to remove an insoluble product by filtering in the heated state. After drying under reduced pressure in the presence of phosphorous pentoxide, it melts at 113° C.

reactant | 2,4,6-trichloronitrobenzene | 0.35 mole, 79 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | ethylenediamine | 280 ml | C(CN)N | C2H8N2
solvent | dioxan | 140 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(β-aminoethyl)amino-6-(β-aminoethyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCN)[N+](=O)[O-])NCCN | C10H16ClN5O2
